US05004745
A suspension of 4 g of 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid in 60 cm3 of dimethyl sulphoxide and 3 g of 1-methylpiperazine is heated at 80° C. for 1 hour and a half. After cooling to about 20° C., 150 cm3 of water are added. 18 cm3 of 10% acetic acid are added to the solution obtained. The precipitate formed is drained, washed with 3 times 50 cm3 of water and recrystallized from 50 cm3 of dimethylformamide. 4 g of 7,9-difluoro-1-methyl-8-(4-methyl-1-pip-erazinyl)-4-oxo-1,4-dihydrobenzo[b]1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 316° C..

reactant | 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 4 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1F)F | C14H7F3N2O3
reactant | 1-methylpiperazine | 3 g | CN1CCNCC1 | C5H12N2
reactant | water | 150 cm3 | O | H2O
reactant | acetic acid | 18 cm3 | C(C)(=O)O | C2H4O2
solvent | dimethyl sulphoxide | 60 cm3 | CS(=O)C | C2H6OS
product | naphthyridine-3-carboxylic acid | N1=CC(=CC2=CC=CN=C12)C(=O)O | C9H6N2O2
